US06190650B1
Preparation of Sodium N-(4-sulfophenyl)propanamide terminated dendrimers
Solid sodium N-(4-sulfophenyl)acrylamide (250 mg; 1 mmol) and solid sodium carbonate (106 mg; 1 mmol) were added successively to a stirred solution of PAMAM 4.0 (EDA) (78 mg; 0.011 mmol) in water (4 ml). The resulting solution was stirred under nitrogen for four days and then freeze dried to give a fluffy white solid. The crude product was purified by gel filtration (Sephadex LH20; water to give PAMAM 4.0 (EDA) terminated with 64 sodium N-(4-sulfophenyl)propanamide groups (206 mg). 13C nmr showed a faint trace of what was taken to be mono alkylated terminal amino groups. 1H nmr (D2O):δ 2.10; 2.48; 2.58; 2.79; 3.20; 7.42 (d, J=7 Hz); 7.65 (d, J=7 Hz). 13C nmr (D2O): δ 36.5; 37.9; 41.1; 53.4; 55.6; 124.8; 130.9; 143.0; 144.2; 177.4; 178.5.

reactant | sodium N-(4-sulfophenyl)acrylamide | 1 mmol, 250 mg | S(=O)(=O)(O)C1=CC=C(C=C1)NC(C=C)=O.[Na]
reactant | sodium carbonate | 1 mmol, 106 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 4 ml | O | H2O
product | Sodium N-(4-sulfophenyl)propanamide | S(=O)(=O)(O)C1=CC=C(C=C1)NC(CC)=O.[Na] | InChI=1S/C9H11NO4S.Na/c1-2-9(11)10-7-3-5-8(6-4-7)15(12,13)14;/h3-6H,2H2,1H3,(H,10,11)(H,12,13,14);
